US06514996B2
(Step A) 5-bromo-2,3-dihydro-8-methoxy-1,4-benzodioxine (Compound IIbo-a)
3-bromo-6-methoxycatechol (16 g) was dissolved in DMF (50 ml), mixed with 1,2-dibromoethane (15 ml) and potassium fluoride (21 g), stirred for 6 hours while heating at 110EC. The resultant was allowed to stand for cooling, mixed with water, and extracted with ether. The organic layer was washed withan aqueous sodium hydroxide solution, water, and a saturated aqueous sodium chloride solution in that order, dried over manganese sulfate anhydride, and then, evaporated under reduced pressure for removing the solvent. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give Compound IIbo-a (5.9 g, 34%) as a white solid.

reactant | 3-bromo-6-methoxycatechol | 16 g | BrC1=C(C(O)=C(C=C1)OC)O | C7H7BrO3
reactant | 1,2-dibromoethane | 15 ml | BrCCBr | C2H4Br2
reactant | potassium fluoride | 21 g | [F-].[K+]
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-bromo-2,3-dihydro-8-methoxy-1,4-benzodioxine | BrC1=CC=C(C=2OCCOC21)OC | C9H9BrO3
